US05883107
N-Boc-L-methionine sulfone-L-proline-O-benzyl ester was prepared by adding to a solution of N-Boc-L-methionine sulfone (14.0 g, 50.0 mmole) in dichloromethane (150 mL) at 0° C., HOBt (10.1 g, 75 mmole) followed by DCC (11.33 g, 55.0 mmole). The mixture was stirred for 10 minutes, and then L-proline benzyl ester hydrochloride salt (50.0 mmole, 12.0 g) was added followed by NMM (100 mmole, 10.9 mL). The resulting mixture was stirred in an ice bath and allowed to come to room temperature over 12 hours. The mixture was filtered to remove dicyclohexylurea and ethyl acetate (300 mL) was added. The organic phase was then added to a separatory funnel and washed with saturated aqueous sodium bicarbonate, brine and then 1M aqueous HCl. The organic phase was dried over magnesium sulfate and then filtered. The organic phase was then reduced on a rotary evaporator under vacuum and then on a high vacuum line to remove traces of solvent to provide 23.5 g of a white solid (100%). Rf=0.34 (silica, 5:95 methanol/chloroform).

reactant | N-Boc-L-methionine sulfone | 50.0 mmole, 14.0 g | CC(C)(C)OC(=O)N[C@@H](CCS(=O)(=O)C)C(=O)O | C10H19NO6S
reactant | HOBt | 75 mmole, 10.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 55.0 mmole, 11.33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-proline benzyl ester hydrochloride salt | 50.0 mmole, 12.0 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | NMM | 100 mmole, 10.9 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-Boc-L-methionine sulfone L-proline-O-benzyl ester | CC(C)(C)OC(=O)N[C@@H](CCS(=O)(=O)C)C(=O)O.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O | InChI=1S/C12H15NO2.C10H19NO6S/c14-12(11-7-4-8-13-11)15-9-10-5-2-1-3-6-10;1-10(2,3)17-9(14)11-7(8(12)13)5-6-18(4,15)16/h1-3,5-6,11,13H,4,7-9H2;7H,5-6H2,1-4H3,(H,11,14)(H,12,13)/t11-;7-/m00/s1
